US05817671
5-(N-[benzoyl]amino)-3-(1-(2-phenyleth-1-yl)piperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.015 gm (0.047 mMol) 5-amino-3-(1-(2-phenyleth-1-yl)piperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.007 mL (0.061 mMol) benzoyl chloride, the title compound was prepared essentially by the procedure described in Example 7.

reactant | 5-amino-3-(1-(2-phenyleth-1-yl)piperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.047 mMol, 0.015 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)CCC2=CC=CC=C2 | C20H24N4
reactant | benzoyl chloride | 0.061 mMol, 0.007 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 5-(N-[benzoyl]amino)-3-(1-(2-phenyleth-1-yl)piperidin-4-yl)pyrrolo[3,2-b]pyridine | C(C1=CC=CC=C1)(=O)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)CCC2=CC=CC=C2 | C27H28N4O
